US06159990
To a solution of 2-amino-2-(3,4-difluorophenyl)-ethanol (8.6 g, 49.7 mmol) in CHCl3 (150 mL) at 0° C. was added a solution of di-tert-butyl dicarbonate (11.4 g, 52.0 mmol) in CHCl3 (50 mL) in one portion and the resulting solution was stirred overnight at room temperature. The solvent was removed in vacuo and the residue was subjected to column chromatography on silica gel (2:1 hexane-EtOAc followed by EtOAc) to obtain [1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester as white solid (10.0 g,74%).

reactant | 2-amino-2-(3,4-difluorophenyl)-ethanol | 49.7 mmol, 8.6 g | NC(CO)C1=CC(=C(C=C1)F)F | C8H9F2NO
reactant | di-tert-butyl dicarbonate | 52.0 mmol, 11.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | [1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester | 10.0 g, 74% | C(C)(C)(C)OC(NC(CO)C1=CC(=C(C=C1)F)F)=O | C13H17F2NO3
